US05204346
A solution of 3-[2-(2-hydroxyethyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.5 g) and thionyl chloride (0.13 ml) in methylene chloride (4 ml) was stirred at room temperature for 1 hour and evaporated in vacuo. To the residue was added dropwise a solution of 1-(2-hydroxyethyl)piperazine (0.78 g) in amyl alcohol (5 ml), and the suspension was refluxed for 1.5 hours. The reaction mixture was evaporated in vacuo, and the residue was purified by column chromatography on silica gel using chloroform as eluent. The obtained oil was treated with a 20% solution of hydrogen chloride in ethanol to afford 3-[2-{2-{4-(2-}ethyl}-3-oxo-2,3-hydroxyethyl)piperazin-1-yl}ethyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine dihydrochloride.

reactant | 3-[2-(2-hydroxyethyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.5 g | OCCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C19H16N4O2
reactant | thionyl chloride | 0.13 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 2-phenylpyrazolo[1,5-a]pyridine dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1 | InChI=1S/C13H10N2.2ClH/c1-2-6-11(7-3-1)13-10-12-8-4-5-9-15(12)14-13;;/h1-10H;2*1H
